US06020357
To a solution of 1-(3-cyano-4-fluorophenyl)-3-trifluoromethyl-5-bromomethyl pyrazole(2.5 g, 7.18 mmol) in DMSO (40 mL) was added copper(I) oxide(2.16 g, 15.08 mmol) and water (12 mL). The reaction mixture was stirred at 60° C. for 2 hours then cooled to RT and stirred at RT overnight. The next day, the mixture was filtered through celite, filter pad was washed with ethyl acetate(20 mL); the filtrate was partitioned between ethyl acetate(50 mL) and water(50 mL); organic phase was separated and washed with water(3×30 mL); dried over sodium sulfate; filtered, concentrated, flash chromatography (ethyl acetate : hexane, 1:6) to afford 1-(3-cyano-4-fluorophenyl)-3-trifluoromethyl-5-hydroxymethyl pyrazole(1.7 g). CI mass spectrum m/z (rel. intensity) 286 (M+H, 100).

reactant | 1-(3-cyano-4-fluorophenyl)-3-trifluoromethyl-5-bromomethyl pyrazole | 7.18 mmol, 2.5 g | C(#N)C=1C=C(C=CC1F)N1N=C(C=C1CBr)C(F)(F)F | C12H6BrF4N3
reactant | water | 12 mL | O | H2O
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
catalyst | copper(I) oxide | 15.08 mmol, 2.16 g | [Cu-]=O
product | 1-(3-cyano-4-fluorophenyl)-3-trifluoromethyl-5-hydroxymethyl pyrazole | 1.7 g | C(#N)C=1C=C(C=CC1F)N1N=C(C=C1CO)C(F)(F)F | C12H7F4N3O
